US07659305B2
(2S,4S)-4-(3-Chloro-phenylamino)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
4-Oxo-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (364.5 mg, 1.5 mmol) and 3-chloroaniline (191 mg, 1.5 mmol) were dissolved in DCM (10 ml). To this solution was added sodium triacetoxyborohydride (413 mg, 1.95 mmol) and acetic acid (0.085 ml, 1.5 mmol), and the reaction stirred at room temperature overnight. The reaction mixture was washed with 2N NaOH (5 ml), saturated brine (5 ml), dried over MgSO4 and evaporated. The residue was purified by flash chromatography on silica eluting with DCM to give the title compound as a colourless oil (215 mg, 40%).

reactant | 4-Oxo-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 1.5 mmol, 364.5 mg | COC(=O)C1N(CC(C1)=O)C(=O)OC(C)(C)C | C11H17NO5
reactant | 3-chloroaniline | 1.5 mmol, 191 mg | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | sodium triacetoxyborohydride | 1.95 mmol, 413 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 1.5 mmol, 0.085 ml | C(C)(=O)O | C2H4O2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | (2S,4S)-4-(3-Chloro-phenylamino)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 215 mg, 40% | COC(=O)[C@H]1N(C[C@H](C1)NC1=CC(=CC=C1)Cl)C(=O)OC(C)(C)C | C17H23ClN2O4
